### PR TITLE
[Merged by Bors] - feat(LinearAlgebra/Matrix/Nondegenerate): more API and generalize to non-domains

### PR DESCRIPTION
**Pull request by SnirBroshi**
- Syntactically generalize the bilinear form identities to non-square matrices
- Prove iff and transpose theorems for `SeparatingLeft`/`SeparatingRight`/`Nondegenerate`
- Prove `M *ᵥ v = 0 → v = 0` and `v ᵥ* M = 0 → v = 0` given `Nondegenerate`
  (extracted from the existing `eq_zero_of_*_eq_zero`)
- Generalize `M.det ≠ 0 → M.Nondegenerate` to `M.det ∈ R⁰ → M.Nondegenerate` (over any `CommRing`)
- Add `M *ᵥ v = 0 → v = 0` and `v ᵥ* M = 0 → v = 0` theorems given `M.det ∈ R⁰`
- Allow `NonUnitalNonAssocSemiring`s in the `def`s

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/LinearAlgebra/Matrix/Nondegenerate.lean [hunk 1]
```diff
@@ -62,6 +62,33 @@ lemma nondegenerate_def : M.Nondegenerate ↔
   · exact fun h ↦ ⟨separatingLeft_def.mp h.1, separatingRight_def.mp h.2⟩
   · exact fun h ↦ ⟨separatingLeft_def.mpr h.1, separatingRight_def.mpr h.2⟩
 
+variable [Finite n] in
+omit [Fintype n] in
+theorem separatingLeft_iff_forall_vecMul_eq_zero {M : Matrix m n R} :
```
Comment (themathqueen) [inline Mathlib/LinearAlgebra/Matrix/Nondegenerate.lean]: same thing below, instead of adding another line
```suggestion
omit [Fintype n] in
theorem separatingLeft_iff_forall_vecMul_eq_zero [Finite n] {M : Matrix m n R} :
```

File: Mathlib/LinearAlgebra/Matrix/Nondegenerate.lean [hunk 2]
```diff
@@ -62,6 +62,33 @@ lemma nondegenerate_def : M.Nondegenerate ↔
...
+    M.SeparatingLeft ↔ ∀ v, v ᵥ* M = 0 → v = 0 := by
+  classical
+  have := Fintype.ofFinite n
+  rw [separatingLeft_def]
+  refine ⟨fun h v hv ↦ h v fun w ↦ ?_, fun h w hw ↦ h w <| funext fun i ↦ ?_⟩
+  · simp [dotProduct_mulVec, hv]
+  · simpa using hw <| Pi.single i 1
```
Comment (themathqueen) [inline Mathlib/LinearAlgebra/Matrix/Nondegenerate.lean]: same thing below
```suggestion
 have := Fintype.ofFinite n
  rw [separatingLeft_def]
  refine ⟨fun h v hv ↦ h v fun w ↦ ?_, fun h w hw ↦ h w <| funext fun i ↦ ?_⟩
  · simp [dotProduct_mulVec, hv]
  · classical simpa using hw <| Pi.single i 1
```

Comment (SnirBroshi) [reply Mathlib/LinearAlgebra/Matrix/Nondegenerate.lean]: I've always been unsure on whether to put the `classical` at the beginning or as late as possible.
Is there a guideline on this? If not, can you please explain why you prefer placing it late?

Comment (themathqueen) [reply Mathlib/LinearAlgebra/Matrix/Nondegenerate.lean]: I don't think it matters all that much. More of a stylistic nit here. I guess you can keep it at the start, but it could be informative to know _what_ actually needs `classical` in the proof (at least to me).

File: Mathlib/LinearAlgebra/Matrix/Nondegenerate.lean (hunk 1 above)
Comment (SnirBroshi) [reply Mathlib/LinearAlgebra/Matrix/Nondegenerate.lean]: Whoops 😅

File: Mathlib/LinearAlgebra/Matrix/ToLinearEquiv.lean [hunk 3]
```diff
@@ -189,6 +189,37 @@ lemma separatingRight_iff_det_ne_zero {A : Type*} [DecidableEq n] [CommRing A] [
...
+
+alias ⟨_, SeparatingLeft.nondegenerate⟩ := nondegenerate_iff_separatingLeft
+
+variable [Finite n] in
+omit [Fintype n] in
+theorem nondegenerate_iff_separatingRight {A : Type*} [CommRing A] [IsDomain A]
+    {M : Matrix n n A} : M.Nondegenerate ↔ M.SeparatingRight := by
+  classical
+  have := Fintype.ofFinite n
+  rw [nondegenerate_iff_det_ne_zero, separatingRight_iff_det_ne_zero]
```
Comment (themathqueen) [inline Mathlib/LinearAlgebra/Matrix/ToLinearEquiv.lean:191]: Can you not just do this using two rewrites (of the above lemmas), i.e.,
`rw [<- separatingLeft_iff_separatingRight, nondegenerate_iff_separatingLeft]`?

File: Mathlib/LinearAlgebra/Matrix/ToLinearEquiv.lean
Comment (themathqueen) [inline Mathlib/LinearAlgebra/Matrix/ToLinearEquiv.lean]: I think everything after this line in this section uses `CommRing` and `IsDomain`, so let's declare them as variables so we don't need to keep adding them to lemmas?

File: Mathlib/LinearAlgebra/Matrix/Nondegenerate.lean [hunk 4]
```diff
@@ -62,6 +62,64 @@ lemma nondegenerate_def : M.Nondegenerate ↔
...
+theorem separatingRight_transpose_iff [Finite m] [Finite n] :
+    Mᵀ.SeparatingRight ↔ M.SeparatingLeft := by
+  have := Fintype.ofFinite m
+  have := Fintype.ofFinite n
+  simp_rw [separatingRight_def, separatingLeft_def, dotProduct_transpose_mulVec]
+
+alias ⟨_, SeparatingLeft.transpose⟩ := separatingRight_transpose_iff
+
+omit [Fintype m] [Fintype n] in
+theorem nondegenerate_transpose_iff [Finite m] [Finite n] : Mᵀ.Nondegenerate ↔ M.Nondegenerate := by
```
Comment (themathqueen) [inline Mathlib/LinearAlgebra/Matrix/Nondegenerate.lean:116]: should this be `simp`?

File: Mathlib/LinearAlgebra/Matrix/Nondegenerate.lean [hunk 5]
```diff
@@ -62,6 +62,67 @@ lemma nondegenerate_def : M.Nondegenerate ↔
...
+theorem SeparatingLeft.eq_zero_of_vecMul_eq_zero [Finite n] (hM : M.SeparatingLeft) {v : m → R}
+    (hv : v ᵥ* M = 0) : v = 0 :=
+  separatingLeft_iff_forall_vecMul_eq_zero.mp hM v hv
+
+omit [Fintype m] in
+theorem SeparatingRight.eq_zero_of_mulVec_eq_zero [Finite m] (hM : M.SeparatingRight) {v : n → R}
+    (hv : M *ᵥ v = 0) : v = 0 :=
+  separatingRight_iff_forall_mulVec_eq_zero.mp hM v hv
+
+theorem nondegenerate_iff_forall_eq_zero :
```
Comment (themathqueen) [inline Mathlib/LinearAlgebra/Matrix/Nondegenerate.lean]: `_iff_forall_eq_zero` isn't clear enough that it's the vecMul and mulVec version. Not sure what a better name is. Maybe `nondegenerate_iff_forall_mulVec_and_vecMul_eq_zero`? Anything else would just be too long?

File: Mathlib/LinearAlgebra/Matrix/Nondegenerate.lean [hunk 6]
```diff
@@ -62,6 +62,67 @@ lemma nondegenerate_def : M.Nondegenerate ↔
...
+alias ⟨_, SeparatingLeft.transpose⟩ := separatingRight_transpose_iff
+
+omit [Fintype m] [Fintype n] in
+@[simp]
+theorem nondegenerate_transpose_iff [Finite m] [Finite n] : Mᵀ.Nondegenerate ↔ M.Nondegenerate := by
+  rw [nondegenerate_iff, nondegenerate_iff, separatingLeft_transpose_iff,
+    separatingRight_transpose_iff, and_comm]
+
+alias ⟨_, Nondegenerate.transpose⟩ := nondegenerate_transpose_iff
+
```
Comment (themathqueen) [inline Mathlib/LinearAlgebra/Matrix/Nondegenerate.lean:120]: would it be better to declare `[Fintype n] [Fintype m]` here rather than at the start of the section and `omit`ing them throughout?

File: Mathlib/LinearAlgebra/Matrix/Nondegenerate.lean [hunk 7]
```diff
@@ -39,29 +39,88 @@ def SeparatingLeft : Prop :=
...
+theorem SeparatingLeft.eq_zero_of_vecMul_eq_zero [Fintype m] [Finite n] (hM : M.SeparatingLeft)
+    {v : m → R} (hv : v ᵥ* M = 0) : v = 0 :=
+  separatingLeft_iff_forall_vecMul_eq_zero.mp hM v hv
+
+theorem SeparatingRight.eq_zero_of_mulVec_eq_zero [Finite m] [Fintype n] (hM : M.SeparatingRight)
+    {v : n → R} (hv : M *ᵥ v = 0) : v = 0 :=
+  separatingRight_iff_forall_mulVec_eq_zero.mp hM v hv
+
+theorem nondegenerate_iff_forall_mulVec_and_vecMul_eq_zero [Fintype m] [Fintype n] :
```
Comment (themathqueen) [inline Mathlib/LinearAlgebra/Matrix/Nondegenerate.lean]: they're the other way around
```suggestion
theorem nondegenerate_iff_forall_vecMul_and_mulVec_eq_zero [Fintype m] [Fintype n] :
```

File: Mathlib/LinearAlgebra/Matrix/Nondegenerate.lean [hunk 8]
```diff
@@ -39,29 +39,88 @@ def SeparatingLeft : Prop :=
...
+    separatingRight_iff_forall_mulVec_eq_zero]
+
+@[simp]
+theorem separatingLeft_transpose_iff [Finite m] [Finite n] :
+    Mᵀ.SeparatingLeft ↔ M.SeparatingRight := by
+  have := Fintype.ofFinite m
+  have := Fintype.ofFinite n
+  simp_rw [separatingLeft_def, separatingRight_def, dotProduct_transpose_mulVec]
+
+alias ⟨_, SeparatingRight.transpose⟩ := separatingLeft_transpose_iff
```
Comment (themathqueen) [inline Mathlib/LinearAlgebra/Matrix/Nondegenerate.lean]: The alias name is confusing. I feel like it implies that it's `M.SeparatingRight -> M.transpose.SeparatingRight`.

Maybe `SeparatingRight.separatingLeft_transpose` would be better since it's more precise?

But maybe I'm being too pedantic with names here.

File: Mathlib/LinearAlgebra/Matrix/Nondegenerate.lean [hunk 9]
```diff
@@ -39,29 +39,88 @@ def SeparatingLeft : Prop :=
...
+
+@[simp]
+theorem separatingRight_transpose_iff [Finite m] [Finite n] :
+    Mᵀ.SeparatingRight ↔ M.SeparatingLeft := by
+  have := Fintype.ofFinite m
+  have := Fintype.ofFinite n
+  simp_rw [separatingRight_def, separatingLeft_def, dotProduct_transpose_mulVec]
+
+alias ⟨_, SeparatingLeft.transpose⟩ := separatingRight_transpose_iff
```
Comment (themathqueen) [inline Mathlib/LinearAlgebra/Matrix/Nondegenerate.lean]: Same here

File: Mathlib/LinearAlgebra/Matrix/Nondegenerate.lean [hunk 10]
```diff
@@ -73,42 +132,50 @@ theorem Nondegenerate.exists_not_ortho_of_ne_zero (hM : Nondegenerate M)
...
-theorem Nondegenerate.exists_not_ortho_of_ne_zero' {M : Matrix m n R} (hM : Nondegenerate M)
-    {w : n → R} (hw : w ≠ 0) : ∃ v, v ⬝ᵥ M *ᵥ w ≠ 0 :=
+theorem Nondegenerate.exists_not_ortho_of_ne_zero' (hM : Nondegenerate M) {w : n → R} (hw : w ≠ 0) :
+    ∃ v, v ⬝ᵥ M *ᵥ w ≠ 0 :=
   not_forall.mp (mt hM.eq_zero_of_ortho' hw)
 
 section Determinant
-variable [DecidableEq m] {M : Matrix m m A}
+open scoped nonZeroDivisors
+variable [DecidableEq m] {M : Matrix m m R}
```
Comment (themathqueen) [inline Mathlib/LinearAlgebra/Matrix/Nondegenerate.lean]: `section` `open scoped` `variable` feels clunky. How about
```suggestion
variable [DecidableEq m] {M : Matrix m m R}

open scoped nonZeroDivisors
```

File: Mathlib/LinearAlgebra/Matrix/Nondegenerate.lean [hunk 11]
```diff
@@ -73,42 +132,50 @@ theorem Nondegenerate.exists_not_ortho_of_ne_zero (hM : Nondegenerate M)
...
+
+theorem eq_zero_of_vecMul_eq_zero_of_det_mem_nonZeroDivisors (hM : M.det ∈ R⁰)
+    {v : m → R} (hv : v ᵥ* M = 0) : v = 0 :=
+  Nondegenerate.of_det_mem_nonZeroDivisors hM |>.separatingLeft.eq_zero_of_vecMul_eq_zero hv
+
+theorem eq_zero_of_vecMul_eq_zero [NoZeroDivisors R] (hM : M.det ≠ 0) {v : m → R}
     (hv : v ᵥ* M = 0) : v = 0 :=
-  (nondegenerate_of_det_ne_zero hM).eq_zero_of_ortho fun w => by
-    rw [dotProduct_mulVec, hv, zero_dotProduct]
+  nondegenerate_of_det_ne_zero hM |>.separatingLeft.eq_zero_of_vecMul_eq_zero hv
```
Comment (themathqueen) [inline Mathlib/LinearAlgebra/Matrix/Nondegenerate.lean:170]: It doesn't really matter, but why not use the above `eq_zero_of_vecMul_eq_zero_of_det_mem_nonZeroDivisors` here?

File: Mathlib/LinearAlgebra/Matrix/ToLinearEquiv.lean [hunk 12]
```diff
@@ -158,54 +158,71 @@ private theorem exists_mulVec_eq_zero_iff' {A : Type*} (K : Type*) [DecidableEq
...
 
-theorem nondegenerate_iff_det_ne_zero {A : Type*} [DecidableEq n] [CommRing A] [IsDomain A]
-    {M : Matrix n n A} : Nondegenerate M ↔ M.det ≠ 0 := by
+theorem nondegenerate_iff_det_ne_zero [DecidableEq n] : Nondegenerate M ↔ M.det ≠ 0 := by
   refine ⟨?_, nondegenerate_of_det_ne_zero⟩
   rw [ne_eq, ← exists_vecMul_eq_zero_iff]
   push Not
   intro hM v hv hMv
   obtain ⟨w, hwMv⟩ := hM.exists_not_ortho_of_ne_zero hv
   simp [dotProduct_mulVec, hMv, zero_dotProduct, ne_eq] at hwMv
```
Comment (themathqueen) [inline Mathlib/LinearAlgebra/Matrix/ToLinearEquiv.lean]: you can golf this with your new lemmas
```suggestion
  grind [nondegenerate_iff_forall_mulVec_and_vecMul_eq_zero,
    exists_mulVec_eq_zero_iff, exists_vecMul_eq_zero_iff]
```

File: Mathlib/LinearAlgebra/Matrix/ToLinearEquiv.lean [hunk 13]
```diff
@@ -158,54 +158,71 @@ private theorem exists_mulVec_eq_zero_iff' {A : Type*} (K : Type*) [DecidableEq
...
 
-lemma separatingLeft_iff_det_ne_zero {A : Type*} [DecidableEq n] [CommRing A] [IsDomain A]
-    {M : Matrix n n A} : SeparatingLeft M ↔ M.det ≠ 0 := by
+lemma separatingLeft_iff_det_ne_zero [DecidableEq n] : SeparatingLeft M ↔ M.det ≠ 0 := by
   refine ⟨fun h hc ↦ ?_, fun h ↦ (nondegenerate_of_det_ne_zero h).1⟩
   obtain ⟨v, hvne, hv⟩ := exists_vecMul_eq_zero_iff.mpr hc
   refine hvne (separatingLeft_def.mp h v ?_)
   simp [dotProduct_mulVec, hv]
```
Comment (themathqueen) [inline Mathlib/LinearAlgebra/Matrix/ToLinearEquiv.lean]: this too
```suggestion
  grind [separatingLeft_iff_forall_vecMul_eq_zero, exists_vecMul_eq_zero_iff]
```

File: Mathlib/LinearAlgebra/Matrix/ToLinearEquiv.lean [hunk 14]
```diff
@@ -158,54 +158,71 @@ private theorem exists_mulVec_eq_zero_iff' {A : Type*} (K : Type*) [DecidableEq
...
 
-lemma separatingRight_iff_det_ne_zero {A : Type*} [DecidableEq n] [CommRing A] [IsDomain A]
-    {M : Matrix n n A} : SeparatingRight M ↔ M.det ≠ 0 := by
+lemma separatingRight_iff_det_ne_zero [DecidableEq n] : SeparatingRight M ↔ M.det ≠ 0 := by
   refine ⟨fun h hc ↦ ?_, fun h ↦ (nondegenerate_of_det_ne_zero h).2⟩
   obtain ⟨v, hvne, hv⟩ := exists_mulVec_eq_zero_iff.mpr hc
   refine hvne (separatingRight_def.mp h v ?_)
   simp [hv]
```
Comment (themathqueen) [inline Mathlib/LinearAlgebra/Matrix/ToLinearEquiv.lean]: and this

```suggestion
  grind [separatingRight_iff_forall_mulVec_eq_zero, exists_mulVec_eq_zero_iff]
```

File: Mathlib/LinearAlgebra/Matrix/Nondegenerate.lean (hunk 11 above)
Comment (SnirBroshi) [reply Mathlib/LinearAlgebra/Matrix/Nondegenerate.lean:170]: Because
```suggestion
  eq_zero_of_vecMul_eq_zero_of_det_mem_nonZeroDivisors (mem_nonZeroDivisors_of_ne_zero hM) hv
```
seems worse than the current proof to me

File: Mathlib/LinearAlgebra/Matrix/Nondegenerate.lean [hunk 15]
```diff
@@ -73,42 +132,51 @@ theorem Nondegenerate.exists_not_ortho_of_ne_zero (hM : Nondegenerate M)
...
-    contrapose! h
-    use Pi.single i 1 ᵥ* M.adjugate
-    rw [dotProduct_mulVec, vecMul_vecMul, adjugate_mul]
-    simp_all [dotProduct, smul_apply, smul_eq_mul, Matrix.one_apply]
-
-theorem eq_zero_of_vecMul_eq_zero (hM : M.det ≠ 0) {v : m → A}
+theorem nondegenerate_of_det_ne_zero [NoZeroDivisors R] (hM : M.det ≠ 0) : M.Nondegenerate :=
+  .of_det_mem_nonZeroDivisors <| mem_nonZeroDivisors_of_ne_zero hM
+
+theorem eq_zero_of_vecMul_eq_zero_of_det_mem_nonZeroDivisors (hM : M.det ∈ R⁰)
```
Comment (themathqueen) [inline Mathlib/LinearAlgebra/Matrix/Nondegenerate.lean]: shouldn't this be?

```suggestion
theorem eq_zero_of_det_mem_nonZeroDivisors_of_vecMul_eq_zero (hM : M.det ∈ R⁰)
```

File: Mathlib/LinearAlgebra/Matrix/Nondegenerate.lean [hunk 16]
```diff
@@ -73,42 +132,51 @@ theorem Nondegenerate.exists_not_ortho_of_ne_zero (hM : Nondegenerate M)
...
+    {v : m → R} (hv : v ᵥ* M = 0) : v = 0 :=
+  Nondegenerate.of_det_mem_nonZeroDivisors hM |>.separatingLeft.eq_zero_of_vecMul_eq_zero hv
+
+theorem eq_zero_of_vecMul_eq_zero [NoZeroDivisors R] (hM : M.det ≠ 0) {v : m → R}
     (hv : v ᵥ* M = 0) : v = 0 :=
-  (nondegenerate_of_det_ne_zero hM).eq_zero_of_ortho fun w => by
-    rw [dotProduct_mulVec, hv, zero_dotProduct]
+  nondegenerate_of_det_ne_zero hM |>.separatingLeft.eq_zero_of_vecMul_eq_zero hv
+
+theorem eq_zero_of_mulVec_eq_zero_of_det_mem_nonZeroDivisors (hM : M.det ∈ R⁰)
```
Comment (themathqueen) [inline Mathlib/LinearAlgebra/Matrix/Nondegenerate.lean]: same here?

File: Mathlib/LinearAlgebra/Matrix/Nondegenerate.lean (hunk 15 above)
Comment (SnirBroshi) [reply Mathlib/LinearAlgebra/Matrix/Nondegenerate.lean]: It's a deliberate choice so that the existing `eq_zero_of_vecMul_eq_zero` would be a prefix of it, but I guess it violates the naming convention :(

File: Mathlib/LinearAlgebra/Matrix/Nondegenerate.lean [hunk 17]
```diff
@@ -39,29 +39,88 @@ def SeparatingLeft : Prop :=
...
+  have := Fintype.ofFinite m
+  have := Fintype.ofFinite n
+  simp_rw [separatingRight_def, separatingLeft_def, dotProduct_transpose_mulVec]
+
+alias ⟨_, SeparatingLeft.separatingRight_transpose⟩ := separatingRight_transpose_iff
+
+@[simp]
+theorem nondegenerate_transpose_iff [Finite m] [Finite n] : Mᵀ.Nondegenerate ↔ M.Nondegenerate := by
+  rw [nondegenerate_iff, nondegenerate_iff, separatingLeft_transpose_iff,
+    separatingRight_transpose_iff, and_comm]
```
Comment (themathqueen) [inline Mathlib/LinearAlgebra/Matrix/Nondegenerate.lean]:
```suggestion
  simp [nondegenerate_iff, and_comm]
```

**Review by themathqueen — COMMENTED** [review]
Thanks!

maintainer merge

**Comment by ocfnash** [comment]
Thanks!

bors merge
